US04429152
50 g (223 mmol) of 3-(3-nitrophenyl)-2-methoxyacrylic acid is suspended in 785 ml of water and brought into solution by the addition of 30 ml of concentrated ammonia. After addition of 3 g of Raney nickel, the mixture is hydrogenated at 80 bar until uptake of hydrogen ceases. The solution is filtered, 325 g of salt are added, and the resultant solution is thoroughly extracted with tetrahydrofuran. The combined tetrahydrofuran extracts are dried over sodium sulfate, filtered over active carbon and concentrated, thus producing 38.6 g (88% of theory) of 3-(3-aminophenyl)-2-methoxypropionic acid. This product is dissolved in 1 liter of water by the addition of 110 ml of 2 N ammonia. The resultant solution is treated first with 160 ml of glacial acetic acid, and then with 36 ml of bromine in 160 ml of glacial acetic acid added dropwise at room temperature over the course of 2 hours. The reaction mixture is stirred for several hours in an ice bath, the resultant precipitate is vacuum-filtered, washed with water and dried at 50° C., thus producing 66 g (73% of theory) of 3-(3-amino-2,4,6-tribromophenyl)-2-methoxypropionic acid, as a white powder, mp 173°-175° C. 32 g (74 mmol) of this compound is added portionwise at +5° C. to 80 ml of nitrosylsulfuric acid. Then, 40 ml of glacial acetic acid is added, and the mixture is stirred for 2 hours at +5° C. The mixture is poured onto 360 g of ice, and the resultant mixture is added to a solution of 33 g of copper(I) cyanide, 62 g of potassium cyanide and 464 ml of concentrated ammonia in 297 ml of water, resulting in discharge of gas. The reaction mixture is stirred overnight at room temperature, treated with 1 liter of ethyl acetate, and brought to pH 2 by addition of concentrated hydrochloric acid. After pressure filtration, the ethyl acetate phase is separated and the aqueous phase is again thoroughly extracted with ehtyl acetate. The combined ethyl acetate extracts are dried over sodium sulfate, filtered over active carbon and vacuum-concentrated to dryness, thus producing 24 g of crude 3-(3-cyano-2,4,6-tribromophenyl)-2-methoxypropionic acid. This product is hydrolyzed to the amide by stirring at 60° C. in 100 ml of water containing 3 g of caustic soda for 3 hours. The resultant solution is filtered over active carbon and the filtrate is brought to pH 2 with concentrated hydrochloric acid. The resultant mixture containing a precipitate is stirred for several hours in an ice bath, vacuum-filtered, washed with water and dried at 50° C., thus producing 27.5 g (81% of theory) of 3-(3-carbamoyl-2,4,6-tribromophenyl)-2-methoxypropionic acid, as a white powder, mp 138°-139° C.

reactant | 3-(3-nitrophenyl)-2-methoxyacrylic acid | 223 mmol, 50 g | [N+](=O)([O-])C=1C=C(C=CC1)C=C(C(=O)O)OC | C10H9NO5
reactant | ammonia | 30 ml | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | water | 785 ml | O | H2O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 3-(3-aminophenyl)-2-methoxypropionic acid | 38.6 g, 88% | NC=1C=C(C=CC1)CC(C(=O)O)OC | C10H13NO3
